US04877881
Acetoxy vanillin (5.0 g, 2.6×10-2M) is dissolved in dry THF (300 ml) with formyl methylenetriphenylphosphorane (78 g, 2.6×10-2M) and refluxed under an atmosphere of argon for 80 hours. The reaction mixture is concentrated to dryness and chromatographed on flash silica to afford 4-acetoxy-3-methoxycinnamaldehyde (3 g, 54% yield); mp=83°-86° C.

reactant | Acetoxy vanillin | 2.6×10-2M, 5.0 g | C(C)(=O)OC(=O)C1=CC(OC)=C(O)C=C1 | C10H10O5
reactant | formyl methylenetriphenylphosphorane | 2.6×10-2M, 78 g | C(=O)C1=C(C=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C | C20H17OP
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-acetoxy-3-methoxycinnamaldehyde | 3 g, 54% yield | C(C)(=O)OC1=C(C=C(C=CC=O)C=C1)OC | C12H12O4
